multisource_5R_network - fault test
V1 A 0 DC 10
V2 B 0 DC 15
I1 0 C DC 5
R1 A 0 2012.428179
R2 A B 2026.250851
R3 A C 992.145614
R4 B C 210.176073
R5 C 0 4007.546914
.op
.control
run
print v(A) v(B) v(C)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i]
print @i1[i]
.endc
.end
